US04921852
A solution of (2S,4S)-4-acetylthio-2-(4-bromomethyl-1,3-dioxolan-2-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.67 g) and sodium azide (0.24 g) in N,N-dimethylformamide (25 ml) was stirred at 60° C. for 1.5 hours, and the mixture was poured into a mixture of water (250 ml) and ethyl acetate (200 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was dissolved in a mixture of methanol (8 ml) and tetrahydrofuran (8 ml), and then deacetylated by reacting the resultant product with 28% solution of sodium methoxide in methanol (0.7 ml) to give (2S,4S)-2-(4-azidomethyl-1,3-dioxolan-2-yl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.99 g) in substantially the same manner as that of Preparation 7-(1).

reactant | (2S,4S)-4-acetylthio-2-(4-bromomethyl-1,3-dioxolan-2-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.67 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1OCC(O1)CBr | C18H21BrN2O7S
reactant | sodium azide | 0.24 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 250 ml | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-2-(4-azidomethyl-1,3-dioxolan-2-yl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.99 g | N(=[N+]=[N-])CC1OC(OC1)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H19N5O6S
